US06130235
Preparation of 4-(3,4-dichlorophenyl)-piperazinyl-benzimidazole-5-carboxamide
Benzimidazole-5-carboxylic acid (1 mMol, 162 mg) was dissolved in 5 mL dry DMF and reacted with 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride for 15 minutes. 1-(3,4-dichlorophenyl )-piperazine, 1 mMol (231 mg) was added followed by 10 mg DMAP. The mixture was stirred for 20 h at room temperature. The reaction mixture was poured into water and extracted with methylene chloride (3×50 mL). The extracts were combined, washed with brine, water and dried over MgSO4. After evaporation of the solvent, the residue was chromatographed on silica gel with chloroform-methanol (0-5% methanol, gradient). Evaporation of the desired fractions gave 150 mg (40%) of the title compound; MS (ESI) m/e 375 (M+).

reactant | Benzimidazole-5-carboxylic acid | 1 mMol, 162 mg | N1=CNC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-(3,4-dichlorophenyl )-piperazine | ClC=1C=C(C=CC1Cl)N1CCNCC1 | C10H12Cl2N2
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-(3,4-dichlorophenyl)-piperazinyl-benzimidazole-5-carboxamide | 150 mg, 40% | ClC=1C=C(C=CC1Cl)N1CCN(CC1)C=1NC2=C(N1)C=CC(=C2)C(=O)N | C18H17Cl2N5O
